US06417193B1
Methyl-N-(3-[2-Chloro-6-Fluorophenyl]-5-Methylisoxazol-4-oyl)-7-Aminoheptanoate
Methyl-7-aminoheptanoate hydrochloride (733 mg, 3.75 mmol) and 3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-oyl chloride (1.03 g, 3.75 mmol) were converted to 1.48 g of the title compound by the procedure of Preparation 10. (100%). EA calculated for: C19H22N2O4ClF: C, 57.51; H, 5.59; N, 7.06. Found: C, 57.78; H, 5.70; N, 6.80. MS(FD) m/z 396.1 (M+).

reactant | Methyl-7-aminoheptanoate hydrochloride | 3.75 mmol, 733 mg | Cl.COC(CCCCCCN)=O
reactant | 3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-oyl chloride | 3.75 mmol, 1.03 g | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
product | Methyl-N-(3-[2-Chloro-6-Fluorophenyl]-5-Methylisoxazol-4-oyl)-7-Aminoheptanoate | 1.48 g | COC(CCCCCCNC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl)=O | C19H22ClFN2O4
